US06337331B1
6-Cyclobutyl-3-(2-fluorophenyl)-4H-1,2,3-triazolo[1,5-α]pyrimidin-5-one (50 g, 0.18 mmol), triphenylphosphine (120 mg, 0.44 mmol) and (2-ethyl-2H-1,2,4-triazol-3-yl)methanol (60 mg, 0.44 mmol) were suspended in dry tetrahydrofuran (1.5 ml). Diethyl azodicarboxylate (70 μl, 0.44 mmol) was added and a solution resulted immediately. The reaction was stirred at room temperature for 48 hours before purification by preparative tlc (60% EtOAc/hexanes) to afford a colourless oil which crystallised upon the addition of diethyl ether. The white solid was collected by filtration and stirred in diethyl ether for 6 hours and collected by filtration to afford 6-cyclobutyl-5-(2-ethyl-2H-1,2,4-triazol-3-ylmethoxy)-3-(2-fluorophenyl)-1,2,3-triazolo[1,5-α]pyrimidine (41 mg; 59%) as white needles, m.p. 188-191° C.; δH (360 MHz, CDCl3) 1.42 (3H, t, J=7.3 Hz, NCH2CH3), 1.89-1.94 (1H, m, CH(CH2)3), 2.04-2.15 (3H, m, CH(CH2)3), 2.36-2.43 (2H, m, CH(CH2)3), 4.25 (2H, q, J=7.3 Hz, NCH2CH3), 5.65 (2H, s, OCH2), 7.19-7.31 (2H, m, ArH), 7.36-7.42 (1H, m, ArH), 7.92 (1H, s, triazole CH), 7.99 (1H, td, J=7.5 and 1.7 Hz, ArH), 8.59 (1H, d, J=1 Hz, pyrimidine CH); m/z (ES+) 394 (M+H+).

reactant | 6-Cyclobutyl-3-(2-fluorophenyl)-4H-1,2,3-triazolo[1,5-α]pyrimidin-5-one | 0.18 mmol, 50 g | C1(CCC1)C=1C(NC=2N(C1)N=NC2C2=C(C=CC=C2)F)=O | C15H13FN4O
reactant | triphenylphosphine | 0.44 mmol, 120 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2-ethyl-2H-1,2,4-triazol-3-yl)methanol | 0.44 mmol, 60 mg | C(C)N1N=CN=C1CO | C5H9N3O
reactant | Diethyl azodicarboxylate | 0.44 mmol, 70 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 6-cyclobutyl-5-(2-ethyl-2H-1,2,4-triazol-3-ylmethoxy)-3-(2-fluorophenyl)-1,2,3-triazolo[1,5-α]pyrimidine | 41 mg, 59% | C1(CCC1)C=1C(=NC=2N(C1)N=NC2C2=C(C=CC=C2)F)OCC=2N(N=CN2)CC | C20H20FN7O
